US07138363B2
A mixture of 3.51 g (12.3 mmol) of 6-(4-chloropyrid-2-yl)-2-pyrid-2-yl-pyrimidin-4-ol, 27.4 ml (303 mmol, 20 equivalents, 30.38 g) of 1-methyl-piperazine and 84 mg (0.05 mmol, 0.05 equivalent) of zinc(II) chloride in 50 ml of 2-methyl-2-butanol is refluxed for 22 hours and concentrated to dryness using a rotary evaporator. 50 ml of water are added, 3.6 g of EDTA are added, and the pH is adjusted to 9 using dilute sodium hydroxide solution. Extraction is carried out three times using 150 ml of chloroform each time, and the organic extracts are combined and dried (sodium sulfate). Concentration is carried out using a rotary evaporator and the crude product is recrystallised from toluene. 6-[4-(4-Methyl-piperazin-1-yl)-pyrid-2-yl]-2-pyrid-2-yl-pyrimidin-4-ol is obtained in the form of a whitish solid.

reactant | 6-(4-chloropyrid-2-yl)-2-pyrid-2-yl-pyrimidin-4-ol | 12.3 mmol, 3.51 g | ClC1=CC(=NC=C1)C1=CC(=NC(=N1)C1=NC=CC=C1)O | C14H9ClN4O
reactant | 1-methyl-piperazine | 303 mmol, 27.4 ml, 30.38 g, 20 equivalents | CN1CCNCC1 | C5H12N2
solvent | 2-methyl-2-butanol | 50 ml | CC(C)(CC)O | C5H12O
catalyst | zinc(II) chloride | 0.05 mmol, 84 mg, 0.05 equivalent | [Cl-].[Zn+2].[Cl-]
product | 6-[4-(4-Methyl-piperazin-1-yl)-pyrid-2-yl]-2-pyrid-2-yl-pyrimidin-4-ol | CN1CCN(CC1)C1=CC(=NC=C1)C1=CC(=NC(=N1)C1=NC=CC=C1)O | C19H20N6O
